US05015661
2-Bromo-5-butylthiophene
Bromine, 5 ml (15.63 g or 0.0977 mol), was added to a solution of 15.2 g (0.108 mol) of 2-butylthiophene in 400 ml of chloroform. Following the addition, the mixture was stirred for 10 minutes at room temperature and was then washed with 10% aqueous sodium carbonate solution. The organic layer was separated, dried and evaporated and the remaining oil was distilled under high vacuum to yield a colorless oil. Nmr (CDCl3): 0.89 ppm (t, 3, J=7.5 Hz, CH3). 1.2-1.7 (m, 4, CH2CH2), 2.7 (t, 2, J=7.5 Hz, CH2). 6.47 (d, 1, J=4 Hz. C4-H), 6.78 (d, 1, J=4 Hz. C3-H).

reactant | Bromine | BrBr | Br2
reactant | 2-butylthiophene | 0.108 mol, 15.2 g | C(CCC)C=1SC=CC1 | C8H12S
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-5-butylthiophene | BrC=1SC(=CC1)CCCC | C8H11BrS
